US04824839
Following the procedure of Examples 4 and 5, 3-acetyl-7-chlorosulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine is converted to 3-acetyl-7-methylthio-2,3,4,5-tetrahydro-1H-3-benzazepine and then to 3-acetyl-7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine which is hydrolyzed with dilute hydrochloric acid to give 7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride.

reactant | 3-acetyl-7-chlorosulfonyl-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)N1CCC2=C(CC1)C=CC(=C2)S(=O)(=O)Cl | C12H14ClNO3S
reactant | 3-acetyl-7-methylthio-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)N1CCC2=C(CC1)C=CC(=C2)SC | C13H17NOS
reactant | 3-acetyl-7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine | C(C)(=O)N1CCC2=C(CC1)C=CC(=C2)S(=O)C | C13H17NO2S
reactant | hydrochloric acid | Cl | ClH
product | 7-methylsulfinyl-2,3,4,5-tetrahydro-1H-3-benzazepine hydrochloride | Cl.CS(=O)C1=CC2=C(CCNCC2)C=C1 | InChI=1S/C11H15NOS.ClH/c1-14(13)11-3-2-9-4-6-12-7-5-10(9)8-11;/h2-3,8,12H,4-7H2,1H3;1H
